US07192970B2
Preparation of 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzaldehyde
To a solution of potassium hydroxide (0.67 g, 9.80 mmol) in ethanol (30 ml) is added 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthol (2.00 g, 9.80 mmol) and 4-(2-bromoethoxy)benzaldehy (2.25 g, 9.80 mmol). Then the mixture is heated to reflux for 8 hours. After cooled to −5° C., the precipitate is collected by filtration, washed with water, and dried under vacuum to give the title product (1.60 g, 46.4%).

reactant | potassium hydroxide | 9.80 mmol, 0.67 g | [OH-].[K+]
reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthol | 9.80 mmol, 2.00 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzaldehyde | 1.60 g, 46.4% | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCCOC1=CC=C(C=O)C=C1)C | C23H28O3
